US04962230
In a 100 ml autoclave, the inside atmosphere of which had previously been replaced with argon, were placed 0.36 g (2 mmoles) of p-methoxyatropic acid and 20 ml of methanol. Then, 7.5 mg (0.009 mmole) of Ru((+)-BINAP)-(O2CCH3)2 prepared according to the same manner as in Referential Example 3 except using (+)-BINAP in place of (-)-BINAP was added to the mixture to perform hydrogenation for 12 hours at a hydrogen pressure of 100 kg/cm2 and at a reaction temperature of 19° C. Thereafter, the solvent was distilled off to provide 0.32 g of (2R)-(-)-2-(p-methoxyphenyl)propionic acid. The yield was 89%.

reactant | p-methoxyatropic acid | 2 mmoles, 0.36 g | COC1=CC=C(C(C(=O)O)=C)C=C1 | C10H10O3
reactant | (+)-BINAP | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
product | (2R)-(-)-2-(p-methoxyphenyl)propionic acid | 0.32 g, yield was 89% | COC1=CC=C(C=C1)[C@H](C(=O)O)C | C10H12O3
